US07462639B2
Cyclopropanecarboxylic acid[3-(5,7,7-triethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide
Cyclopropanecarboxylic acid[3-(5,7,7-triethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide was prepared using 2-(4-amino-1H-pyrazol-3-yl)-5,7,7-triethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (137.7 mg, 0.407 mmol) and cyclopropanecarbonyl chloride (46.8 mg, 0.448 mmol). 57 mg (34%) of the title compound were obtained.

reactant | 2-(4-amino-1H-pyrazol-3-yl)-5,7,7-triethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.407 mmol, 137.7 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(CC)CC)N1 | C18H22N6O
reactant | cyclopropanecarbonyl chloride | 0.448 mmol, 46.8 mg | C1(CC1)C(=O)Cl | C4H5ClO
product | Cyclopropanecarboxylic acid[3-(5,7,7-triethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide | 57 mg, 34% | C(C)N1C(C(C=2C=C3C(=CC12)N=C(N3)C3=NNC=C3NC(=O)C3CC3)(CC)CC)=O | C22H26N6O2
